US07517873B2
To a solution of 3.3 g (0.0092 mole) of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(2-methoxy-ethyl)-amino]-propanoic acid tert-butyl ester (IV-40) in 30 mL of ethanol was added 5.2 g (0.023 mole) of stannous chloride dihydrate and 1 mL of hydrochloric acid. The mixture was heated to 60 degrees for 2 hours and then concentrated under reduced pressure. The residue was taken up in 50 mL of water and extracted with three times with 50 mL of ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification of the residue by silica gel chromatography, eluting with dichloromethane-methanol (100:0-95:5) gave 0.84 g of 2-chloro-9-(2-methoxy-ethyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-40) as a white solid.

reactant | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(2-methoxy-ethyl)-amino]-propanoic acid tert-butyl ester | 0.0092 mole, 3.3 g | C(C)(C)(C)OC(CCN(CCOC)C1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C14H21ClN4O5
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-chloro-9-(2-methoxy-ethyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.84 g | ClC=1N=CC2=C(N(CCC(N2)=O)CCOC)N1 | C10H13ClN4O2
